US06828320B2
6-(5-Trifluoromethyl-1,3,4-oxadiazol-2-yl)quinazolin-4-one
6-(1,2,3,4-Tetrazol-5-yl)-quinazolin-4-one (1.0 g) was treated with trifluoroacetic anhydride (50 ml) at 50° C. under N2 for 5 hours. The anhydride was removed in vacuo, the residue absorbed onto silica and purified by chromatography to give the title compound as a white solid (0.79 g); δH [2H6]DMSO 12.63(1H, bs), 8.71(1H, d), 8.45(1H, dd), 8.27(1H, s), 7.90(1H, d); m/z (M−1+) 281.

reactant | 6-(1,2,3,4-Tetrazol-5-yl)-quinazolin-4-one | 1.0 g | N1N=NN=C1C=1C=C2C(NC=NC2=CC1)=O | C9H6N6O
reactant | trifluoroacetic anhydride | 50 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 6-(5-Trifluoromethyl-1,3,4-oxadiazol-2-yl)quinazolin-4-one | 0.79 g | FC(C1=NN=C(O1)C=1C=C2C(NC=NC2=CC1)=O)(F)F | C11H5F3N4O2
